### PR TITLE
General-interest prep work for lv_common_futures.

### PR DESCRIPTION
**Pull request by mcalancea**
This PR extracts some non-LV-specific definitions and results from the `lv_common_futures` branch.

### CODE REVIEW

File: Lib/ListExtras.v [hunk 1]
```diff
@@ -1419,6 +1502,373 @@ Proof.
...
+        lia.
+      }
+      rewrite H in *.
+      left.
+      reflexivity. 
+Qed.
+
+Definition mode
+  {A : Type}
+  `{EqDecision A}
```
Comment (palmskog) [inline Lib/ListExtras.v:1655]:
```suggestion
  `{EqDecision A}
```
The backtick makes the explicit `A` redundant.

File: Lib/ListExtras.v [hunk 2]
```diff
@@ -1419,6 +1502,373 @@ Proof.
...
+  (l : list A) : list A  :=
+  let mode_value := list_max (List.map (count_occ decide_eq l) l) in
+  filter (fun a => beq_nat (count_occ decide_eq l a) mode_value) l.
+
+Lemma mode_not_empty
+  {A : Type}
+  `{EqDecision A}
```
Comment (palmskog) [inline Lib/ListExtras.v:1662]:
```suggestion
  `{EqDecision A}
```
Same as above.

File: Lib/ListExtras.v [hunk 3]
```diff
@@ -1419,6 +1502,373 @@ Proof.
...
+  destruct H.
+  intros contra.
+  rewrite contra in H0.
+  destruct H0.
+  intuition.
+Qed.
+
+Fixpoint complete_prefix 
+  {A : Type}
+  `{EqDecision A}
```
Comment (palmskog) [inline Lib/ListExtras.v:1724]:
```suggestion
  `{EqDecision A}
```

File: Lib/ListExtras.v [hunk 4]
```diff
@@ -1419,6 +1502,373 @@ Proof.
...
+                                      match res' with
+                                      | None => None
+                                      | Some s => Some s
+                                      end
+                               end
+  end.
+
+Lemma complete_prefix_empty 
+  {A : Type}
+  `{EqDecision A}
```
Comment (palmskog) [inline Lib/ListExtras.v:1746]:
```suggestion
  `{EqDecision A}
```

File: Lib/ListExtras.v [hunk 5]
```diff
@@ -1419,6 +1502,373 @@ Proof.
...
+  - simpl.
+    destruct (complete_prefix l []).
+    inversion IHl.
+    reflexivity.
+    discriminate IHl.
+Qed.
+
+Lemma complete_prefix_correct 
+  {A : Type}
+  `{EqDecision A}
```
Comment (palmskog) [inline Lib/ListExtras.v:1762]:
```suggestion
  `{EqDecision A}
```

File: Lib/ListExtras.v [hunk 6]
```diff
@@ -1419,6 +1502,373 @@ Proof.
...
+       rewrite eq_cp.
+       f_equal. assumption.
+       assumption.
+       discriminate H.
+       discriminate H.
+Qed.
+
+Definition complete_suffix 
+  {A : Type}
+  `{EqDecision A}
```
Comment (palmskog) [inline Lib/ListExtras.v:1823]:
```suggestion
  `{EqDecision A}
```

File: Lib/ListExtras.v [hunk 7]
```diff
@@ -1419,6 +1502,373 @@ Proof.
...
+  (l suff : list A) : option (list A) :=
+  let res := complete_prefix (rev l) (rev suff) in
+  match res with
+  | None => None
+  | Some ls => Some (rev ls)
+  end.
+  
+Lemma complete_suffix_correct 
+  {A : Type}
+  `{EqDecision A}
```
Comment (palmskog) [inline Lib/ListExtras.v:1833]:
```suggestion
  `{EqDecision A}
```

File: Lib/ListSetExtras.v [hunk 8]
```diff
@@ -627,6 +647,33 @@ Proof.
...
+  - simpl in Hin; intuition.
+  - simpl in Hin.
+    apply set_remove_1 in Hin.
+    apply IHl1 in Hin.
+    assumption.
+Qed. 
+
+
+Definition get_maximal_elements {A}
+  (preceeds : A -> A -> Prop)
```
Comment (palmskog) [inline Lib/ListSetExtras.v:671]:
```suggestion
Definition get_maximal_elements
  `(preceeds : A -> A -> Prop)
```

File: Lib/ListExtras.v [hunk 9]
```diff
@@ -1419,6 +1502,373 @@ Proof.
         right. right. exists suf2'. simpl. f_equal. assumption.
 Qed.
 
+Fixpoint zip_apply 
+  {A B : Type}
+  (lf : list (A -> B))
```
Comment (palmskog) [inline Lib/ListExtras.v:1507]: I guess this is OK, but when do you usually have a list of functions like this? Wouldn't it make more sense to have a family of `A -> B` functions indexed by a `nat`, i.e., `f: nat -> A -> B`?

**Review by palmskog — APPROVED** [review]

File: VLSM/Composition.v [hunk 10]
```diff
@@ -1201,7 +1247,256 @@ All results from regular projections carry to these "free" projections.
         * apply (protocol_initial_state (pre_loaded_with_all_messages_vlsm (IM i))).
       + rewrite state_update_neq; try assumption. apply IHHs.
   Qed.
-
+  
+  Lemma relevant_component_transition
```
Comment (traiansf) [inline VLSM/Composition.v:1251]: Maybe document this a little/

**Review by traiansf — APPROVED** [review]
Looks good to me. In general I'd like to see a few more comments especially next to any definition/lemma with a longer statement and whose name does not fully convey the idea of what it stands for.

File: VLSM/Common.v [hunk 11]
```diff
@@ -1145,6 +1144,31 @@ traces.
       rewrite <- Houtput.
       assumption.
     Qed.
+    
+     Lemma protocol_message_from_protocol_trace_receive
```
Comment (traiansf) [inline VLSM/Common.v:1148]: We now have `protocol_trace_input_is_protocol` which state the same thing.

File: VLSM/Equivocation.v [hunk 12]
```diff
@@ -298,6 +298,29 @@ Section Simple.
                has_not_been_sent_prop has_not_been_sent s m;
     }.
 
+    Lemma has_been_sent_initially_false
```
Comment (traiansf) [inline VLSM/Equivocation.v:301]: This can now be derived directly through the relation between has_been_send_capability and oracle_stepwise_props, using: `has_been_sent_stepwise_props`. Maybe move this lemma there.

File: VLSM/Equivocation.v [hunk 13]
```diff
@@ -448,6 +471,28 @@ Section Simple.
                has_not_been_received_prop has_not_been_received s m;
     }.
 
+    Lemma has_been_received_initially_false
```
Comment (traiansf) [inline VLSM/Equivocation.v:474]: Same comment as above.

File: VLSM/Equivocation.v [hunk 14]
```diff
@@ -1767,6 +1812,145 @@ Section Composite.
     let (s', om') := (vtransition X l som) in
     not_heavy s'.
 
+    (* begin hide *)
+  Lemma sent_component_protocol_composed
```
Comment (traiansf) [inline VLSM/Equivocation.v:1816]: You can now prove this easier by using that the `has_been_sent_capability` instance for the composition and that `has_been_sent` for the composition is implied by `has_been_sent` for a component, then applying `proper_sent` on it, using `protocol_state_has_trace` to get a witness trace and `protocol_trace_output_is_protocol`.

File: VLSM/Equivocation.v [hunk 15]
```diff
@@ -1767,6 +1812,145 @@ Section Composite.
...
+      inversion eq_t.
+      f_equal.
+      specialize (@can_emit_from_protocol_trace message (composite_vlsm_constrained_projection IM constraint i)) as Htemp'.
+      specialize (Htemp' (is i) m (finite_trace_projection_list IM constraint i tr)).
+      spec Htemp'. unfold finite_protocol_trace. intuition. specialize (Hinit i). assumption.
+      spec Htemp'. assumption.
+      assumption.
+    Qed.
+
+  Lemma received_component_protocol_composed
```
Comment (traiansf) [inline VLSM/Equivocation.v:1886]: same as above

**Review by traiansf — CHANGES_REQUESTED** [review]
Looks good, in general. I'd like to take another look on it though after you implement the suggested changes.

File: Lib/ListExtras.v [hunk 16]
```diff
@@ -1177,8 +1177,12 @@ Proof.
       * apply IHl. exists a'. split; try assumption.
 Qed.
 
-Definition cat_option {A : Type} := 
+(* Unpack list of [option A] into list of [A] *)
+Definition cat_option {A : Type} : list (option A) -> list A := 
   @map_option (option A) A id.
+
+Example cat_option1 : cat_option [Some 1; Some 5; None; Some 6; None] = [1; 5; 6].
```
Comment (traiansf) [inline Lib/ListExtras.v:1184]: Nice :-)

File: VLSM/Equivocation.v [hunk 17]
```diff
@@ -1821,67 +1776,30 @@ Section Composite.
...
-    Qed.
+  Proof.
+    assert (Hcomp : has_been_sent X s m) by (exists i; intuition).
+    assert (protocol_state_prop (pre_loaded_with_all_messages_vlsm X) s) by
+      (apply pre_loaded_with_all_messages_protocol_state_prop; intuition).
+    
+    apply protocol_state_has_trace in Hs as H'.
+    destruct H' as [is [tr [Hpr Hlast]]].
+    assert (Hpr_pre : finite_protocol_trace (pre_loaded_with_all_messages_vlsm X) is tr). {
+      (* There's probably a shortcut for this, but where is it? *)
```
Comment (traiansf) [inline VLSM/Equivocation.v:1787]: Actually, there isn't one... yet.  
It's coming as part of my PR under review: https://github.com/runtimeverification/casper-cbc-proofs/pull/172/files#diff-943fd6a420d34fd491db0bceef5c37ed734d33040f5ba0436a881b1e8b024299R2269

**Review by traiansf — APPROVED** [review]
